US05350748
To 5-chloro-3-(1-methylethoxy)-2-benzofurancarboxylic acid (250 mg, 0.98 mmol) in 5 mL of dry tetrahydrofuran is added oxalyl chloride (0.10 mL, 1.18 mmol) followed by dimethylformamide (0.02 mL). The solution is stirred at room temperature for 1.75 hours, then aniline (0.54 mL, 5.88 mmol) is added. The solution is stirred at room temperature overnight then partitioned between ethyl acetate and 1N HCl . The organic layer is washed with saturated aqueous NaHCO3, followed by brine. The organic layer is dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product is purified by flash chromatography eluting with 3:1 hexane:ethyl acetate to provide 5-chloro-3-(1-methylethoxy)-N-phenyl-2-benzofurancarboxamide, 86% yield; mp=147°-149° C.

reactant | 5-chloro-3-(1-methylethoxy)-2-benzofurancarboxylic acid | 0.98 mmol, 250 mg | ClC=1C=CC2=C(C(=C(O2)C(=O)O)OC(C)C)C1 | C12H11ClO4
reactant | oxalyl chloride | 1.18 mmol, 0.10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.02 mL | CN(C=O)C | C3H7NO
reactant | aniline | 5.88 mmol, 0.54 mL | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-chloro-3-(1-methylethoxy)-N-phenyl-2-benzofurancarboxamide | 86% yield | ClC=1C=CC2=C(C(=C(O2)C(=O)NC2=CC=CC=C2)OC(C)C)C1 | C18H16ClNO3
